US07605158B2
Monomethyl glutarate (3.32 g) is dissolved in chloroform (50 ml) and thereto are added thionyl chloride (1.75 ml) and N,N-dimethylformamide (one drop). After stirring for 1.5 hours at the same temperature, the reaction solution is cooled, and thereto are added 3-amino-N-(5-chloropyridin-2-yl)benzofuran-2-carboxamide (5.00 g) obtained in Reference Example 80 and pyridine (7.0 ml). After stirring for 2.5 hours at room temperature, the reaction solution is poured into 5% hydrochloric acid and extracted with chloroform. The organic layer is washed successively with saturated brine, a saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over sodium sulfate, and evaporated to remove the solvent under reduced pressure. The resulting residue is suspended in diisopropyl ether and the precipitates are collected by filtration to give methyl 5-[(2-{[(5-chloropyridin-2-yl)amino]carbonyl}benzofuran-3-yl)amino]-5-oxopentanoate (6.16 g). APCI-MS M/Z:416/418[M+H]+

reactant | Monomethyl glutarate | 3.32 g | C(CCCC(=O)[O-])(=O)OC
reactant | thionyl chloride | 1.75 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-amino-N-(5-chloropyridin-2-yl)benzofuran-2-carboxamide | 5.00 g | NC1=C(OC2=C1C=CC=C2)C(=O)NC2=NC=C(C=C2)Cl | C14H10ClN3O2
reactant | hydrochloric acid | Cl | ClH
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | pyridine | 7.0 ml | N1=CC=CC=C1 | C5H5N
product | methyl 5-[(2-{[(5-chloropyridin-2-yl)amino]carbonyl}benzofuran-3-yl)amino]-5-oxopentanoate | 6.16 g | ClC=1C=CC(=NC1)NC(=O)C=1OC2=C(C1NC(CCCC(=O)OC)=O)C=CC=C2 | C20H18ClN3O5
